* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 24.8
R1 n1 a 3
R2 a nc 2
V2 nc nd DC 27.9
R3 nd ne 3
V3 b ne DC 14.2
V4 nf b DC 11.2
R4 nf 0 1
.op
.print dc V(a) V(b)
.end